US04806538
A mixture of (3R,6R)-3-hydroxymethyl-6-(1-methylindol-3-ylmethyl)-piperazine-2,5-dione (0.10 g), dry pyridine (1.0 ml) and acetic anhydride (0.08 g) was heated at 100° C. for 1 hour. After the mixture was cooled to ambient temperature, the pricipitated mass was collected, washed with pyridine and then ethanol, and dried to give (3R,6R)-3-acetoxymethyl-6-(1-methylindol-3-ylmethyl)piperazine-2,5-dione (61.8 mg).

reactant | (3R,6R)-3-hydroxymethyl-6-(1-methylindol-3-ylmethyl)-piperazine-2,5-dione | 0.10 g | OC[C@@H]1C(N[C@@H](C(N1)=O)CC1=CN(C2=CC=CC=C12)C)=O | C15H17N3O3
reactant | acetic anhydride | 0.08 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | (3R,6R)-3-acetoxymethyl-6-(1-methylindol-3-ylmethyl)piperazine-2,5-dione | 61.8 mg | C(C)(=O)OC[C@@H]1C(N[C@@H](C(N1)=O)CC1=CN(C2=CC=CC=C12)C)=O | C17H19N3O4
